Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillins / Potassium
 
Attending: ___.
 
Chief Complaint:
Syncope  

 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
The patient is a ___ with AS, HTN, CAD, DM, chronic anemia, 
transfusion dependent, who had a possible syncopal episode in a 
cab enroute to the pheresis lab to get a transfusion. He states 
feeling tired and fatigued, as he usually does when his Hct 
drops low enough to need a transfusion, which has been about 30. 
He denies presyncopal sx, no LH, dizziness, cp, palpitations. He 
feels it is possible he may have simply fallen asleep, but 
apparently the cab driver pulled over and called EMS who brought 
him to ___ ED.  
.  
bowel/bladder incontinence, o/w no brbpr  
.  
In the ED, his EKG showed SR, NA, NI, unchanged RBBB. His 
troponin was 0.12 but CK and MB were flat. He denied chest pain, 
shortness of breath, and only stated he was tired. BP was 
146/41, HR 72.  

 
Past Medical History:
1. Hypertension  
2. Hypercholesterolemia  
3. Diabetes type 2  
4. Severe Aortic stenosis  
4. Conduction system disease (1 AVB, RBBB)  
5. Bradycardia prohibiting Beta Blocker  
6. Right carotid stenosis (50% on ultrasound ___  
7. Colon cancer - s/p resection  
8. CAD s/p 4V CABG in ___  

 
Social History:
___
Family History:
Father w/ CAD and two prior MIs; mother with unknown "heart" 
condition  
 
Physical Exam:
VS: 98.9, 122/60, 77, 18, 98% RA  
Gen: alert, interactive, annoyed elderly gentleman in NAD  
HEENT: PERRL, EOMI, MMM, OP clear  
Neck: supple, no JVD  
Lungs: CTAB  
CV: RRR, nl S1S2, III/VI systolic murmur LUSB  
Abd: +BS, S/NT/ND  
Ext: no c/c/e  

 
Pertinent Results:
ECG Study Date of ___  2:14:12 ___ 
Sinus rhythm with ventricular premature depolarizations. First 
degree  
atrio-ventricular conduction delay. Right bundle-branch block. 
Cannot 
exclude prior infero-posterior myocardial infarction. Compared 
to the previous 
tracing of ___ no major change. 

CHEST (PA & LAT)  ___ 2:33 ___
Over a period of ___ years, there is definite increase in heart 
size which is mildly enlarged. There is pulmonary vascular 
engorgement with early interstitial thickening seen in both 
lungs. In addition there is a newly occurring small right 
pleural effusion and a smaller if present left pleural effusion. 
Patient is status post CABG with multiple sternotomy wires and 
surgical clips.
IMPRESSION:
1. The consolation of findings including increase in heart size, 
pulmonary vascular engorgement, early interstitial edema and 
bilateral pleural effusion it favors congestive heart failure. 
However, any early pneumonic infiltration cannot be completely 
excluded.
 
TTE (Complete) Done ___ at 4:43:49 ___      
The left atrium is moderately dilated. There is mild symmetric 
left ventricular hypertrophy. The left ventricular cavity size 
is normal. Overall left ventricular systolic function is low 
normal (LVEF 50%). [Intrinsic left ventricular systolic function 
is likely more depressed given the severity of valvular 
regurgitation.] Tissue Doppler imaging suggests an increased 
left ventricular filling pressure (PCWP>18mmHg). There is no 
ventricular septal defect. The right ventricular cavity is 
dilated with borderline normal free wall function. [Intrinsic 
right ventricular systolic function is likely more depressed 
given the severity of tricuspid regurgitation.] There are focal 
calcifications in the aortic arch. The aortic valve leaflets are 
severely thickened/deformed. There is severe aortic valve 
stenosis). Mild (1+) aortic regurgitation is seen. The mitral 
valve leaflets are mildly thickened. There is no mitral valve 
prolapse. Moderate (2+) mitral regurgitation is seen. [Due to 
acoustic shadowing, the severity of mitral regurgitation may be 
significantly UNDERestimated.] The tricuspid valve leaflets are 
mildly thickened. The supporting structures of the tricuspid 
valve are thickened/fibrotic. Moderate [2+] tricuspid 
regurgitation is seen. There is mild pulmonary artery systolic 
hypertension. There is no pericardial effusion. 

Compared with the findings of the prior study (images reviewed) 
of ___, left and right ventricular contractile 
function are both reduced.  

DISCHARGE LABS:

 
Brief Hospital Course:
___ M w/ AS, HTN, CAD, DM2, severe AS, systolic heart failure 
with EF 50%, chronic anemia, transfusion dependent, presented 
with weakness, fatigue, question syncope. Hct to 23, received 4 
units PRBC's.  
  
Question Syncopal Episode: Likely due to severe anemia. Hhas 
some episodes of pauses on tele after APC's, but none 
symptomatic. Questionable syncopal episode not likely due to AS, 
but he has severe AS and has been refusing surgery.  
 
Transfusion-dependent anemia: Unclear source. ___, EGD, small 
bowel enteroscopy did not find bleed in past. Should continue to 
follow with his Gastroenterologist. He is on TID iron.  
 
Fevers: No symptoms of infection. FUO workup unreveiling. CT 
torso showed no concerning masses.
 
Troponin elevation: He had some mild troponin elevation, likely 
due to demand ischemia from anemia, CAD, and severe AS.  
  
CAD: ASA, Isordil, ACEI, statin, no BB ___ bradycardia in past.  

  
Hypertension: Lasix, Isordil, lisinopril, prazosin. 
 
Hypercholesterolemia: Statin  

Aortic stenosis: Severe, so far asymptomatic. Needs AVR per Dr. 
___ the patient has repeatedly refused.  

Chronic Systolic Heart Failure with EF50%: ACE, no beta blocker 
because of bradycarida.

DM2: Glyburide 

 
Medications on Admission:
Aspirin Childrens 81 mg--one tablet(s) by mouth once a day  
DOCUSATE SODIUM 100 mg--1 capsule by mouth twice a day prn  
FERROUS SULFATE 325 mg (65 mg Elemental Iron)--1 by mouth 3x/day 
 
FINASTERIDE 5 mg--one tablet by mouth daily  
FUROSEMIDE 20 mg--one tablet by mouth once a day  
GLYBURIDE 2.5 mg--0.5 tablet by mouth daily (daily)  
ISOSORBIDE DINITRATE 10 mg--1 tablet by mouth three times a day  

LISINOPRIL 40 mg--1 tablet by mouth daily  
LORAZEPAM 1 mg--1 tablet by mouth at bedtime  
OMEPRAZOLE 20 mg--one capsule by mouth twice a day  
PRAZOSIN 5 mg--2 capsule by mouth twice a day  
Psyllium --___ packet by mouth twice a day  
SIMVASTATIN 20 mg--one tablet by mouth once a day  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary:
Anemia
Acute Renal Failure
Fevers of Unknown Origin

Secondary:
Hypertension
Hyperlipidemia
Diabetes Mellitus Type 2
Severe Aortic Stenosis
Chronic Systolic Heart Failure with EF 50%

 
Discharge Condition:
Stable HCT at 33, less fatigued.

 
Discharge Instructions:
You were admitted because of anemia causing fatigue. You 
received three blood transfusions. Please call your doctor if 
you notice that you are weak or more tired than usual, as this 
may be a sign of decreased blood count or anemia. 

You also had fevers, for which no cause was found. Please call 
your doctor if you continue to have fevers or any concerning 
symptoms.

Please follow up with your primary care doctor this week.
 
Followup Instructions:
___